Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year-old female with PMH of HTN, IDDM, 
Dilated Cardiomyopathy (EF 20%) with BiV-ICD placed ___, 
hypothyroid, recent hospitalization for renal failure requiring 
dialysis (___), presenting to ___ ED this 
afternoon after a syncopal fall. Patient had scheduled 
Cardiology follow-up at ___ today, and was in the parking 
garage when she became acutely dizzy after getting out of the 
car. Her husband went to grab a wheelchair and when he returned 
she was on the ground, unresponsive, surrounded by bystanders. 
LOC estimated as ___ minutes. She was initially confused, but 
returned to baseline shortly thereafter. Head CT performed in 
the ED revealed a small amount of acute traumatic subarachnoid 
hemorrhage adjacent to the falx, and Neurosurgery was consulted 
for further management. Currently, the patient denies headache 
or visual changes. Denies nausea, vomiting, or new 
numbness/tingling/weakness in her extremities. Her dizziness has 
resolved. Denies chest pain, SOB, abdominal pain, fever/chills. 

 
Past Medical History:
1. Idiopathic dilated cardiomyopathy (recent EF 45%, up from  
 ___. Baseline LBBB.  
 2. Poorly controlled type 2 diabetes (recent A1c 13%)  
 3. NASH with stage 3 cirrhosis on biopsy in ___. Followed by 
Dr. ___ - recent US without evidence of HCC.  
 4. Morbid obesity.  
 5. Obstructive sleep apnea on CPAP at home.  
 6. Hypertension.  
 7. Hyperlipidemia.  
 8. Hypothyroidism  
 9. OCD, followed at ___  

 
Social History:
___
Family History:
Father had heart disease with question of an enlarged heart and 
sudden cardiac death at age ___. Mother with congestive heart 
failure, multiple aunts and uncles with coronary artery disease. 
 

 
Physical Exam:
ON ADMISSION:
O: T: 97.5    BP: 96/68     HR: 92     RR: 16     O2Sats: 95%

Gen: WD/WN, comfortable, NAD.
HEENT: Mild swelling at occiput. No additional external signs of
trauma. 
Neck: Supple. Non-tender to palpation. Full ROM without pain. 

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension. No dysarthria 
or
paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to
2mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift.

Sensation: Intact to light touch, propioception, pinprick and
vibration bilaterally.

Coordination: No dysmetria as tested by finger-nose-finger, 
rapid
alternating movements.

ON DISCHARGE:
Neurologically intact.
 
Pertinent Results:
___ CT HEAD

FINDINGS:  
  
There is a small amount of acute subarachnoid hemorrhage 
adjacent to the falx in the left superior frontal region. This 
finding is new from recent prior exam. No additional sites of 
ICH. No edema, shift of normally midline structures, or evidence 
of acute major vascular territory infarction. Left posterior 
scalp hematoma is noted without underlying fracture. 
  
Mild mucosal thickening is noted within the maxillary sinuses. 
Otherwise the imaged paranasal sinuses, mastoid air cells and 
middle ear cavities are well aerated. Significant periapical 
lucency surrounds a left upper a maxillary molar. 
  
IMPRESSION:  
  
1. Small left parafalcine subarachnoid hemorrhage near the left 
frontal vertex. 
2. Left posterior scalp hematoma. 
3. Significant periapical lucency surrounds a left upper a 
maxillary molar. Please correlate with dental exam. 

 
Brief Hospital Course:
On ___, Ms. ___ was admitted from ED for traumatic SAH 
following a syncopal fall.  Her aspirin was held.  She was 
monitored with serial neurologic examinations. Medicine was 
consulted for assistance with management and syncope workup. 
Cardiology was consulted for ICD interrogation, which was 
unremarkable.

On ___, the patient remained neurologically stable and was 
deemed to require no further neurosurgical intervention.  The 
medicine team felt that her syncope was most likely due to 
orthostasis, and orthostatic vital signs were indeed positive.  
Her anti-hypertensive medications were held.  She was fluid 
resuscitated and urinalysis was ordered.  The medicine team 
recommended that no further syncope workup was necessary.  Her 
urinalysis was positive.  Urine culture was sent and she was 
started on ciprofloxacin.

On ___, she remained neurologically stable and her vital signs 
were no longer concerning for orthostasis.  Her 
anti-hypertensive and diuretic medications were resumed.  She 
diuresed appropriately.  Her potassium was repleted.  
Fingerstick monitoring revealed blood glucose levels in the 
300s, which was covered with sliding scale insulin.  Her 
condition was discussed with the medicine team and she was 
deemed ready for discharge.  A thorough discussion was had with 
the patient regarding post-discharge instructions and 
appropriate follow-up care.  She was discharged on ciprofloxacin 
to complete a 10-day course and levetiracetam for 7 days.  She 
was instructed to closely monitor her blood glucose and provided 
with a prescription to undergo outpatient lab testing for 
electrolyte monitoring.  She will follow up with her PCP ___ 5 
days and with Dr. ___ in 3 months.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Carvedilol 12.5 mg PO BID 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Vitamin D ___ UNIT PO DAILY 
5. Victoza 2-Pak (liraglutide) 0.6 mg/0.1 mL (18 mg/3 mL) 
subcutaneous QAM 
6. Lisinopril 20 mg PO DAILY 
7. MetFORMIN XR (Glucophage XR) 750 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Rosuvastatin Calcium 40 mg PO DAILY 
10. Spironolactone 25 mg PO DAILY 
11. Torsemide 40 mg PO DAILY 
12. HumuLIN R U-500 Concentrated (insulin regular hum U-500 
conc) 500 unit/mL subcutaneous TID 
13. Acetaminophen 650 mg PO Q6H:PRN fever, pain 
14. Glucose Tab ___ TAB PO PRN hypoglycemia 
15. LOPERamide 2 mg PO QID:PRN diarrhea 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN fever, pain 
2. Carvedilol 12.5 mg PO BID 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Lisinopril 20 mg PO DAILY 
5. MetFORMIN XR (Glucophage XR) 750 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Rosuvastatin Calcium 40 mg PO DAILY 
8. Spironolactone 25 mg PO DAILY 
9. Torsemide 40 mg PO DAILY 
10. Vitamin D ___ UNIT PO DAILY 
11. Ciprofloxacin HCl 250 mg PO Q12H Duration: 8 Days 
RX *ciprofloxacin HCl 250 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*16 Tablet Refills:*0
12. LeVETiracetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0
13. HumuLIN R U-500 Concentrated (insulin regular hum U-500 
conc) 500 unit/mL subcutaneous TID 
14. LOPERamide 2 mg PO QID:PRN diarrhea 
15. Victoza 2-Pak (liraglutide) 0.6 mg/0.1 mL (18 mg/3 mL) 
subcutaneous QAM 
16. Glucose Tab ___ TAB PO PRN hypoglycemia 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Traumatic subarachnoid hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Activity
We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
No driving while taking any narcotic or sedating medication. 
If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
***You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
You may have difficulty paying attention, concentrating, and 
remembering new information.
Emotional and/or behavioral difficulties are common. 
Feeling more tired, restlessness, irritability, and mood 
swings are also common.
Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
Headache is one of the most common symptom after a brain 
bleed. 
Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___